US09402833B2
Cyclopropyl sulfonyl chloride (2 g, 14.2 mmol) was added drop-wise at 0° C. to a solution of Benzyl alcohol (2.1 g, 28.4 mmol) and Pyridine (2.35 g, 29.8 mmol) in DCM (20 mL) and continued stirring at 25° C. for 16 h. The reaction mixture was diluted with DCM (100 mL), washed with 1N aq.HCl solution followed by water and brine; Organic layer collected was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the Benzyl cyclopropanesulfonate. 1H NMR (300 MHz, CD3OD) δ ppm 4.3-4.1 (2H, t), 2.7-2.6 (1H, m), 1.8-1.6 (2H, m), 1.6-1.4 (2H, m), 1.2-1.1 (4H, m), 1.0-0.9 (3H, t).

reactant | Cyclopropyl sulfonyl chloride | 14.2 mmol, 2 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | Benzyl alcohol | 28.4 mmol, 2.1 g | C(C1=CC=CC=C1)O | C7H8O
reactant | Pyridine | 29.8 mmol, 2.35 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Benzyl cyclopropanesulfonate | C1(CC1)S(=O)(=O)OCC1=CC=CC=C1 | C10H12O3S
